Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
seizure
 
Major Surgical or Invasive Procedure:
Lumbar puncture ___
Intubated ___ (at OSH)
Extubated ___

 
History of Present Illness:
Mr. ___ is a ___ year-old man with a history of seizure
disorder, on Tegretol, who initially presented to an OSH after
being found down by family this morning and transferred from
___ after having 2 witnessed generalized tonic
clonic seizures s/p Ativan, Keppra, fosphenytoin and intubation.

Per ___ notes and the ED team, the patient's brother found
him down this morning on the floor having a seizure. Prior to
this he had been feeling well, though may have had some alcohol
the night before (2 shots of whiskey). It is unclear if he was
administered any rescue medications in the field, though there
was reportedly a 30 second seizure witnessed by EMS. He 
presented
to the ___ shortly after 3 AM and upon arrival had a
generalized tonic clonic seizure with left eye deviation. He was
given Ativan 4 mg and given concerns about airway protection, 
was
subsequently intubated and started on a propofol drip. Vital
signs on arrival to ___ were temp 100.4, HR 130, RR 20, BP
180/100, O2 100%. Initial work-up included CT head and spine
(negative), WBC 16.3, hgb 14.7, plt 308, Na 140, K 3, Cl 102, 
CO2
22, BUN 13, Cr 1.2, glucose 226, troponin negative, Tegretol
level 3.9, negative serum tox screen, lactate 10.9, initial gas
6.98/79.

 
Past Medical History:
Seizure disorder
 
Social History:
___
Family History:
No family history of seizures.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: Reviewed in MetaVision  
GENERAL: Intubated and sedated 
HEENT: Sclera anicteric, ET tube in place, small amount of blood
in corner of mouth  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Diffuse anterior upper airway sounds/rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs,
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
SKIN: warm, dry
NEURO: Intubated, sedated. Moving all 4 extremities, withdraws 
to
pain in upper extremities bilaterally. Purposeless movement. Not
following commands. CN II-XII intact.

DISCHARGE PHYSICAL EXAM:
========================
General: alert, cooperative, NAD
HEENT: no scleral icterus, MMM
CV: warm, well perfused
Pulm: breathing comfortably on RA
Abdomen: soft, ND
GU: some dried blood around foley catheter.
Extremities: without edema
Skin: no lesions or rashes

Mental status:
Awake, alert and oriented to person, ___. Does not
remember the name of the ___ he works for, states his job is
___". Unable to accurately explain why he is in the
hospital, believes he is here for UTI. Able to say ___ 
backwards.
Able to follow two step commands. Normal prosody. No dysarthria. 


-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI with one beat
nystagmus left gaze.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

Motor: 
Normal bulk, tone. Full strength throughout.

Sensory: no deficits to gross touch.

Cerebellar: Normal FNF

 
Pertinent Results:
ADMISSION LABS
===============
___ 07:02AM BLOOD WBC-19.9* RBC-4.27* Hgb-13.2* Hct-40.1 
MCV-94 MCH-30.9 MCHC-32.9 RDW-12.3 RDWSD-42.9 Plt ___
___ 07:02AM BLOOD Neuts-84.0* Lymphs-6.7* Monos-8.4 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-16.23* AbsLymp-1.29 
AbsMono-1.62* AbsEos-0.00* AbsBaso-0.03
___ 07:02AM BLOOD Plt ___
___ 11:22AM BLOOD ___ PTT-21.0* ___
___ 07:02AM BLOOD Glucose-172* UreaN-10 Creat-0.9 Na-140 
K-5.3 Cl-102 HCO3-15* AnGap-23*
___ 07:02AM BLOOD ALT-21 AST-42* CK(CPK)-246 AlkPhos-75 
TotBili-0.4
___ 07:02AM BLOOD Lipase-28
___ 07:02AM BLOOD cTropnT-<0.01
___ 07:02AM BLOOD CK-MB-2
___ 07:02AM BLOOD Albumin-4.1 Calcium-8.9 Phos-2.7 Mg-1.6
___ 03:58PM BLOOD TSH-1.2
___ 07:02AM BLOOD Phenyto-18.5
___ 07:02AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 07:27AM BLOOD ___ pO2-26* pCO2-42 pH-7.40 
calTCO2-27 Base XS-0
___ 07:27AM BLOOD Lactate-3.8*

IMAGING
=================
___ CXR

ET tube in standard placement.  Nasogastric drainage tube passes 
into the mid stomach and out of view. 
  
No pneumothorax or pleural effusion.  Heart size normal.  Lungs 
clear aside from mild left infrahilar atelectasis. 

___ EEG

This is an abnormal continuous ICU EEG monitoring study because 
of generalized background slowing indicative of a moderate to 
severe global encephalopathy, nonspecific as to etiology. No 
epileptiform discharges, areas of focal slowing, or 
electrographic seizures are seen. There is one  pushbutton 
activation for a brief period of body tensing, with no change in 
the EEG background and no electrographic seizure activity 
present. Compared to  the prior day's study, the background is 
more continuous on the current study 

MICROBIOLOGY
==================

___ 6:10 pm CSF;SPINAL FLUID      Source: LP. 

   Enterovirus Culture (Preliminary):    No Enterovirus 
isolated. 

___ 6:10 pm CSF;SPINAL FLUID      Source: LP #3. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

   ACID FAST CULTURE (Preliminary): 
      The sensitivity of an AFB smear on CSF is very low.. 
      If present, AFB may take ___ weeks to grow.. 

___ 6:10 pm CSF;SPINAL FLUID      Source: LP. 

                            **FINAL REPORT ___

   CRYPTOCOCCAL ANTIGEN (Final ___: 
      CRYPTOCOCCAL ANTIGEN NOT DETECTED. 
           (Reference Range-Negative). 
      Test performed by Lateral Flow Assay. 
      Results should be evaluated in light of culture results 
and clinical
      presentation. 

___ 3:58 pm Blood (EBV)      Source: Venipuncture. 

   ___ VIRUS VCA-IgG AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS EBNA IgG AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS VCA-IgM AB (Preliminary): 
      PENDING. 
      INTERPRETATION PENDING. 
      In most populations, 90% of adults have been infected at 
sometime
      with EBV and will have measurable VCA IgG and EBNA 
antibodies.
      Antibodies to EBNA develop ___ weeks after primary 
infection and
      remain present for life. Presence of VCA IgM antibodies 
indicates
      recent primary infection. 

___ 3:58 pm SEROLOGY/BLOOD      Source: Venipuncture. 

                            **FINAL REPORT ___

   RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 

___ 7:44 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

DISCHARGE LABS
==============
___ 04:15AM BLOOD WBC-8.3 RBC-4.17* Hgb-12.4* Hct-38.4* 
MCV-92 MCH-29.7 MCHC-32.3 RDW-12.6 RDWSD-42.5 Plt ___
___ 04:15AM BLOOD Plt ___
___ 04:15AM BLOOD Glucose-95 UreaN-11 Creat-0.5 Na-142 
K-3.8 Cl-104 HCO3-25 AnGap-13
___ 04:15AM BLOOD Calcium-9.1 Phos-3.5 Mg-1.7
 
Brief Hospital Course:
Mr. ___ is a ___ year-old ___ speaking man with a 
history of seizure disorder (on carbamazapine), who initially 
presented to an OSH after being found down by family and 
transferred from ___ after having 2 witnessed 
generalized tonic clonic seizures s/p Ativan, Keppra, 
fosphenytoin and intubation. He was initially admitted to the 
MICU for monitoring, then once stable, transferred to the 
neurology service for further care. His course was complicated 
by fevers and traumatic foley placement.

#Status epilepticus:
The patient has an underlying seizure disorder on carbamazepine 
300 mg BID, though his level was subtherapeutic. His medications 
were managed by PCP in ___ and ___ reported poor 
medication compliance. He was initially intubated and sedated 
from the outside hospital and was able to be extubated on ___. 
There was concern for infectious trigger given fever to 103 in 
the ED. He was initially started on broad spectrum antibiotics 
with vancomycin, ceftriaxone, ampicillin and acyclovir, though 
CSF not clearly consistent with bacterial or viral etiology, so 
antibiotics were discontinued on ___. He did intermittently run 
fevers, though improved even after stopping antibiotics. Other 
possible triggers for his seizures include medication 
noncompliance and ETOH withdrawal (ETOH history unclear). 
Initiated levetiracetam 1000 mg BID, held home carbamazepine 300 
mg BID. No additional seizures on the Neurology floor. Prior to 
discharge, patient was counseled that he should not drive, 
operate heavy machinery, or drink ETOH, he was amenable.

#Fevers: 
Etiology of the patient's fevers are unclear. CXR relatively 
unremarkable. UA without evidence of infection. LP unremarkable. 
Low suspicion for other source. Treated with broad spectrum 
antibiotics (see #status epilepticus). His antibiotics were 
stopped on ___ and he remained afebrile. 

#Altered mental status: 
Patient was altered and agitated in the ICU, especially after 
extubation. Unclear etiology. Possibly related to ETOH 
withdrawal, though unclear how much patient drinks. Placed on 
phenobarbital taper which was discontinued prior to discharge 
given low suspicion for withdrawal. ___ also be ICU delirium, 
especially given re-directability with family members and waxing 
and waning features. In the ICU he was loaded with 
phenobarbital, kept on precedex, and started on Seroquel, with 
good response. He was able to be weaned off precedex on ___ and 
remained AAOx3. He had no additional episodes of agitation and 
Seroquel was discontinued.

#Acute respiratory failure:
In the setting of agitation and status epilepticus, intubated 
for airway protection and hypercarbia. Extubated on ___ and 
remained without hypoxemia.

#Traumatic foley removal
Patient pulled out foley on ___ and passed blood clots on ___. 
He was kept on serial bladder scans to ensure was not clotting 
off. Urology follow-up was scheduled prior to discharge.

TRANSITIONAL ISSUES
===================
[] discontinued home carbamazepine
[] initiated levetiracetam 1000 mg PO BID, please continue.
[] at urology visit, please perform voiding trial for foley 
removal.
[] continue to encourage medication compliance
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. CarBAMazepine 300 mg PO Q12H 
2. Vitamin D 4000 UNIT PO DAILY 
3. Loratadine 10 mg PO DAILY 

 
Discharge Medications:
1.  LevETIRAcetam 1000 mg PO BID 
RX *levetiracetam [Keppra] 1,000 mg 1 tablet(s) by mouth twice a 
day Disp #*60 Tablet Refills:*6 
2.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0 
3.  Loratadine 10 mg PO DAILY  
4.  Vitamin D 4000 UNIT PO DAILY  
5.Outpatient Physical Therapy
ICD10:  ___.501
Duration: ongoing

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Status epilepticus
Acute respiratory failure
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to care for you at the ___ 
___.

WHY DID I COME TO THE HOSPITAL?
--You developed seizures. 

WHAT HAPPENED WHEN I WAS IN THE HOSPITAL?
--You briefly required a breathing tube to make sure you were 
breathing safely in the setting of seizures.
--We gave you a new medication to help control your seizures 
("levetiracetam") . You will continue to stay on this medication 
after you leave the hospital.
--You were given antibiotics because you had fevers. We stopped 
your antibiotics and you did not have any additional fevers.
--You required a "foley catheter" to help you urinate while you 
had a breathing tube. You passed some blood clots in your urine. 
You will have the foley catheter at the time of discharge to 
allow healing. This will be removed next week at your urology 
appointment, which we have scheduled for you.

WHAT SHOULD I DO WHEN I LEAVE THE HOSPTIAL?
--Please continue to take your medications as prescribed and 
follow-up with your doctors as ___.
--Because of your risk for seizures, you must take some 
precautions. You should not drive for 6 months. You also should 
avoid operating any heavy machinery or placing yourself at risk 
for dangerous falls. You should abstain completely from drinking 
alcohol.

We wish you all the best,
Your ___ care team 
 
Followup Instructions:
___